US08039463B2
A solution of 4-nitro-benzoic acid N′-acetyl-hydrazide (200 mg, 8.9 mmol) in distilled POCl3 (4 mL) was refluxed at 110° C. under nitrogen for 6 hours. The reaction mixture was concentrated and the residue was quenched with 10% NaOH solution. The resulting precipitate was collected by filtration to afford 160 mg (89%) of 2-Methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole. 1H NMR: (CDCl3): δ 8.38 (d, 2H), 8.24 (d, 2H), 2.7 (s, 3H).

reactant | 4-nitro-benzoic acid N′-acetyl-hydrazide | 8.9 mmol, 200 mg | C(C)(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C9H9N3O4
solvent | POCl3 | 4 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole | 160 mg, 89% | CC=1OC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O3
